US04880838
Into a 250 milliter three-necked round bottom reaction flask equipped with a magnetic stirrer and nitrogen inlet was charged 10.0 grams (45.44 mmol) of 3,4-dichloro-2,5-dimethylnitrobenzene, 7.95 grams (48.81 mmol) of 2,4-dichlorophenol, 9.41 grams (68.11 mmol) of potassium carbonate and 60 milliliters dimethylformamide. The reaction mixture was stirred and heated at a temperature of 100° C. for a period of 20 hours and then cooled to room temperature, filtered and concentrated under reduced pressure. The residue was diluted with methylene chloride and the organic layer was washed with 4% NaOH solution (2x) and brine, dried through Na2SO4 and concentrated under reduced pressure to afford the crude product as a dark brown, viscous liquid. The addition of hexane and ethyl acetate afforded a light brown solid which was subjected to Kugelrohr distillation (about 180° C. and about 0.1 mm mercury) to give pure 3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylnitrobenzene (7.17 grams, 20.7 mmol, 45%) as a yellow solid having a melting point of 118° C.-121° C. NMR spectroscopic analysis indicated the following: H'-NMR (CDCl3) 7.76 (br S, 1H), 7.53 (d, J=2 Hz, 1H), 7.12 (d,d; 2.9 Hz; 1H), 6.34 (d, J=9 Hz, 1H), 2.45 (S, 3H), 2.24 (S, 3H).

reactant | 3,4-dichloro-2,5-dimethylnitrobenzene | 45.44 mmol, 10.0 grams | ClC=1C(=C(C=C(C1Cl)C)[N+](=O)[O-])C | C8H7Cl2NO2
reactant | 2,4-dichlorophenol | 48.81 mmol, 7.95 grams | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 68.11 mmol, 9.41 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 milliliters | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-chloro-4-(2,4-dichlorophenoxy)-2,5-dimethylnitrobenzene | 20.7 mmol, 7.17 grams, 45% | ClC=1C(=C(C=C(C1OC1=C(C=C(C=C1)Cl)Cl)C)[N+](=O)[O-])C | C14H10Cl3NO3
